US09029536B2
B) 5-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)pyridin-2-ol
A mixture of 1-ethyl-3-(6-methoxypyridin-3-yl)-1H-pyrazolo[4,3-b]pyridine (120 mg), MeOH (10 mL) and concentrated HCl (5 mL) was stirred at reflux for 24 h and then evaporated. The residue was treated with saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was suspended in IPE and collected by filtration to give the title compound (90 mg).

reactant | 1-ethyl-3-(6-methoxypyridin-3-yl)-1H-pyrazolo[4,3-b]pyridine | 120 mg | C(C)N1N=C(C2=NC=CC=C21)C=2C=NC(=CC2)OC | C14H14N4O
reactant | HCl | 5 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)pyridin-2-ol | 90 mg | C(C)N1N=C(C2=NC=CC=C21)C=2C=CC(=NC2)O | C13H12N4O
